US07109192B2
1b) 4-hydroxy-2-naphthalen-1-ylmethyl-5-nitro-2H-pyridazin-3-one
A solution of 11.04 g (160 mmol) of sodium nitrite in 40 ml of water was added to a solution of 12 g (39.3 mmol) of 4,5-dichloro-2-naphthalen-1-ylmethyl-2H-pyridazin-3-one in 120 ml of dimethylformamide and the mixture was stirred for 24 hours at 85° C.

reactant | sodium nitrite | 160 mmol, 11.04 g | N(=O)[O-].[Na+]
reactant | 4,5-dichloro-2-naphthalen-1-ylmethyl-2H-pyridazin-3-one | 39.3 mmol, 12 g | ClC=1C(N(N=CC1Cl)CC1=CC=CC2=CC=CC=C12)=O | C15H10Cl2N2O
reactant | water | 40 ml | O | H2O
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 4-hydroxy-2-naphthalen-1-ylmethyl-5-nitro-2H-pyridazin-3-one | OC=1C(N(N=CC1[N+](=O)[O-])CC1=CC=CC2=CC=CC=C12)=O | C15H11N3O4
